data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5129,5824,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C-:18]([CH3:19])[N+:20]([CH3:21])=[C:22]([CH3:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:18]([C:16]([CH3:15])=[O:17])([CH3:19])[N:20]([CH3:21])[C:22]2([CH3:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,34.76941276794668,6.312718517399353
2867,3186,[CH3:19][NH:20][C:21](=[O:22])[C-:23]([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[N+:30]([CH3:31])=[C:32]([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]#[C:11][C:12]([CH3:13])([CH3:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]2=[C:11]([C:12]([CH3:13])([CH3:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:32]([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)([c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1)[N:30]([CH3:31])[C:23]2([C:21]([NH:20][CH3:19])=[O:22])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,42.02916883021465,-14.394468703902527
1439,1581,[CH3:18][O:19][C:20](=[O:21])[N-:22][N+:23]#[C:24][C:25]#[N:26].[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[C:9]#[C:10][C:11]([CH3:12])([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[c:9]2[c:10]([n:22]([C:20]([O:19][CH3:18])=[O:21])[n:23][c:24]2[C:25]#[N:26])[C:11]([CH3:12])([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1,water,298.15,15.532721544253626,-71.66295894760088
1612,1781,[CH3:16][C:17]#[N+:18][C-:19]([C:20]#[N:21])[C:22](=[O:23])[O:24][CH3:25].[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]#[C:8][C:9]([Cl:10])([Cl:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]2=[C:8]([C:9]([Cl:10])([Cl:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:17]([CH3:16])=[N:18][C:19]2([C:20]#[N:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,18.408588551377026,-42.544294465885656
5189,5888,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[C-:11]([O+:12]=[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:11]([C:9]([O:8][CH3:7])=[O:10])([c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[O:12][C:13]1([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,28.5492364336382,-21.348917862934297
2772,3081,[CH3:1][C:2](=[O:3])[C:4]1([F:5])[C:6]#[C:7][C:8]([C:9]([F:10])([F:11])[F:12])([C:13]([F:14])([F:15])[F:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][NH:22][C:23](=[O:24])[C:25](=[O+:26][C-:27]([CH3:28])[C:29](=[O:30])[O:31][CH3:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1>>[CH3:1][C:2](=[O:3])[C:4]1([F:5])[C:6]2=[C:7]([C:8]([C:9]([F:10])([F:11])[F:12])([C:13]([F:14])([F:15])[F:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:25]([C:23]([NH:22][CH3:21])=[O:24])([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[O:26][C:27]2([CH3:28])[C:29](=[O:30])[O:31][CH3:32],water,298.15,19.127017489458968,-53.63024601892168
2572,2853,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][N-:24][N+:25]([CH3:26])=[C:27]([C:28]#[N:29])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[N:24]([CH3:23])[N:25]([CH3:26])[C:27]2([C:28]#[N:29])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1,water,298.15,28.96643613387789,-14.15071933040064
441,483,[CH3:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[CH3:9][O:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][C:16]([CH3:17])=[O:18])[C:19]([CH3:20])=[O:21]>>[CH3:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[C:15]([C:16]([CH3:17])=[O:18])=[N:14][C:13]2([C:11]([O:10][CH3:9])=[O:12])[C:19]([CH3:20])=[O:21],water,298.15,13.407849466253571,-42.36924038450198
3879,4438,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C-:9]([O+:10]=[C:11]([C:12]#[N:13])[C:14]([CH3:15])=[O:16])[C:17](=[O:18])[O:19][CH3:20]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([O:6][CH3:5])=[O:8])([C:17](=[O:18])[O:19][CH3:20])[O:10][C:11]1([C:12]#[N:13])[C:14]([CH3:15])=[O:16],water,298.15,5.74768044257908,-52.51532811147954
1085,1183,[CH3:13][NH:14][C:15](=[O:16])[C:17]#[N+:18][N-:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]([C:15]([NH:14][CH3:13])=[O:16])=[N:18][N:19]2[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,23.33478448328104,-45.17525798995275
